US04925838
To a solution of 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(pyrrolidin-1 -yl)methylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.77 g) in acetone (8 ml) was added iodoacetamide (0.93 g) at ambient temperature. The mixture was stirred overnight at the same temperature. The reaction mixture was evaporated in vacuo to give 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(1-carbamoylmethylpyrrolidinio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (0.71 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(pyrrolidin-1 -yl)methylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.77 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1CCCC1)C | C34H39N5O10S
reactant | iodoacetamide | 0.93 g | ICC(=O)N | C2H4INO
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(1-carbamoylmethylpyrrolidinio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 0.71 g | [I-].O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C[N+]1(CCCC1)CC(N)=O)C | InChI=1S/C36H42N6O11S.HI/c1-21-31-30(22(2)43)34(45)39(31)32(35(46)52-19-23-5-9-25(10-6-23)40(48)49)33(21)54-28-15-27(17-42(18-29(37)44)13-3-4-14-42)38(16-28)36(47)53-20-24-7-11-26(12-8-24)41(50)51;/h5-12,21-22,27-28,30-31,43H,3-4,13-20H2,1-2H3,(H-,37,44);1H/t21-,22-,27+,28+,30-,31-;/m1./s1
